US06774130B2
To a solution of (R)-1-(5-acetoxyhexyl)-8-bromo-3,7-dimethylxanthine (5.88 g, 14.7 mmol) in methanol (200 ml) was added a solution of hydrogen chloride in ether (1.0 M, 20 ml). The reaction mixture was stirred at room temperature for 24 hours. Evaporation of the solvent under reduced pressure provided (R)-8-bromo-3,7-dimethyl-1-(5-hydroxyhexyl)xanthine (4.8 g, 91% yield) as a white solid.

reactant | (R)-1-(5-acetoxyhexyl)-8-bromo-3,7-dimethylxanthine | 14.7 mmol, 5.88 g | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)C)Br)C)C | C15H21BrN4O4
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
solvent | ether | 1.0 M, 20 ml | CCOCC | C4H10O
product | (R)-8-bromo-3,7-dimethyl-1-(5-hydroxyhexyl)xanthine | 4.8 g, 91% yield | BrC1=NC=2N(C(N(C(C2N1C)=O)CCCC[C@@H](C)O)=O)C | C13H19BrN4O3
